US06683183B2
To a room temperature suspension of 5.1 g (133.7 mmol) of lithium aluminum hydride in 400 mL of anhydrous THF was added a solution of 16.2 g (66.9 mmol) of 5-ethylamino-3-methylsulfanyl-1,2,4-triazine-6-carboxylic acid, ethyl ester in 150 mL of THF. The reaction was stirred for 6 hours at room temperature, at which time approximately 16 mL of a saturated solution of ammonium sulfate was added dropwise while keeping the reaction temperature below 25° C. with an ice bath. The reaction mixture becomes heavy with precipitate, and 200 mL of THF was added followed by 5 mL more of saturated ammonium sulfate. The reaction mixture was stirred for another 30 minutes and decanted. The remaining solids were filtered and washed several times with a total of 1 L of hot THF. The combined THF solution was concentrated and twice dissolved in dichloromethane and concentrated to give a pale orange semi-solid, (5-ethylamino-3-methylsulfanyl-1,2,4-triazin-6-yl)-methanol.

reactant | lithium aluminum hydride | 133.7 mmol, 5.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-ethylamino-3-methylsulfanyl-1,2,4-triazine-6-carboxylic acid, ethyl ester | 66.9 mmol, 16.2 g | C(C)NC=1N=C(N=NC1C(=O)OCC)SC | C9H14N4O2S
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (5-ethylamino-3-methylsulfanyl-1,2,4-triazin-6-yl)-methanol | C(C)NC=1N=C(N=NC1CO)SC | C7H12N4OS
